US04536507
10,11-Dihydro-11-oxodibenzo[b,f]thiepin-3-carboxaldehyde
Heat a mixture of 5.0 gm. of 3-cyano-10,11-dihydro-11-oxodibenzo[b,f]thiepin and 4.0 gm. of Raney nickel alloy in 60 ml. of 75% (v/v) aqueous formic acid at reflux for 1.5 hours. Cool to room temperature and filter. Concentrate to small volume and extract with methylene chloride. Wash the extract with water and with 1N sodium bicarbonate until neutral. Dry the neutral extract over sodium sulfate and concentrate to dryness to obtain the title product.

reactant | 3-cyano-10,11-dihydro-11-oxodibenzo[b,f]thiepin | C(#N)C=1C=CC2=C(SC3=C(CC2=O)C=CC=C3)C1 | C15H9NOS
reactant | formic acid | C(=O)O | CH2O2
catalyst | Raney nickel | [Ni] | Ni
product | 10,11-Dihydro-11-oxodibenzo[b,f]thiepin-3-carboxaldehyde | O=C1C2=C(SC3=C(C1)C=CC=C3)C=C(C=C2)C=O | C15H10O2S
